US07470798B2
To a solution of 3-(6-hydroxy-2-methyl-3,4,7,8,9,10-hexahydro-7,10-propano-2H-benzo[h]chromen-2-yl)-propionic acid methyl ester (212 mg, 0.61 mmol) in 50 mL dry THF was added LiAlH4 in 8 portions over a period of 20 min. The reaction was stirred for 2 h and quenched onto ice (80 g). The mixture was extracted with EtOAc (3×50 mL) and combined organic layers were dried over Na2SO4 and concentrated. The crude product was chromatographed (hexane/EtOAc=6:1) to yield 2-(3-hydroxy-propyl)-2-methyl-3,4,7,8,9,10-hexahydro-7,10-propano-2H-benzo[h]chromen-6-ol as a light yellow oil (169 mg). 1H-NMR (CDCl3, 300 MHz) δ (ppm): 6.39 (s, 1 H), 5.78 (s, 1 H), 3.69 (m, 2 H), 3.54 (m, 1 H), 3.40 (m, 1 H), 2.69 (m, 2 H), 2.45 (ws, 1 H), 1.90-1.60 (m, 14 H), 1.26 (m, 5 H); 13C-NMR δ (ppm): 144.3, 142.9, 132.7, 128.9, 118.6, 112.6, 75.0, 63.3, 36.1, 35.7, 32.1, 32.0, 31.9, 29.4, 28.7, 26.8, 26.4, 26.1, 24.2, 23.6, 22.8, 22.4; MS (ESI) m/z: 317 (M+H+, 100%).

reactant | 3-(6-hydroxy-2-methyl-3,4,7,8,9,10-hexahydro-7,10-propano-2H-benzo[h]chromen-2-yl)-propionic acid methyl ester | 0.61 mmol, 212 mg | COC(CCC1(OC2=C3C(=C(C=C2CC1)O)C1CCC3CCC1)C)=O | C21H28O4
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-(3-hydroxy-propyl)-2-methyl-3,4,7,8,9,10-hexahydro-7,10-propano-2H-benzo[h]chromen-6-ol | 169 mg | OCCCC1(OC2=C3C(=C(C=C2CC1)O)C1CCC3CCC1)C | C20H28O3
